US09163012B2
A fraction of the above aqueous solution (contains ˜15 mg of 2-(4-o-tolylpiperidin-4-yl)acetic acid, 0.064 mmol) was mixed with 2-adamantyl chloroformate (15 mg, 1.1 equiv). i-Pr2NEt (100 μL, excess) was added. Acetonitrile was added to make the mixture homogeneous. After stirring for 1 h at rt, the mixture was acidified and purified by prep HPLC to afford 2-(1-(2-adamantyloxycarbonyl)-4-o-tolylpiperidin-4-yl)acetic acid (4.4 mg). LC-MS Method 1 tR=2.13 min, m/z=412, 1H NMR (CDCl3) [selected resonances] 7.14 (m, 4H), 4.82 (s, 1H), 3.72 (br s, 2H), 2.78 (s, 2H), 2.52 (s, 3H), 2.46 (dt, 2H), 2.0 (m, 5H), 1.06 (d, 3H).

reactant | 2-(4-o-tolylpiperidin-4-yl)acetic acid | ˜15 mg | C1(=C(C=CC=C1)C1(CCNCC1)CC(=O)O)C | C14H19NO2
reactant | 2-adamantyl chloroformate | 15 mg, 1.1 equiv | ClC(=O)OC1C2CC3CC(CC1C3)C2 | C11H15ClO2
reactant | i-Pr2NEt | 100 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | Acetonitrile | C(C)#N | C2H3N
product | 2-(1-(2-adamantyloxycarbonyl)-4-o-tolylpiperidin-4-yl)acetic acid | 4.4 mg | C12C(C3CC(CC(C1)C3)C2)OC(=O)N2CCC(CC2)(C2=C(C=CC=C2)C)CC(=O)O | C25H33NO4
